US09108905B2
(E)-ethyl 3-(4-fluorophenyl)-2-methylacrylate
4-Fluorobenzaldehyde (12 g, 97 mmol) was dissolved in toluene (500 mL). (Carboethoxyethylidene)triphenylphosphorane (42 g, 116 mmol) was added and the mixture was heated to reflux until the starting material was consumed. The solution was cooled, diluted with hexanes, and the solid was filtered. The filtrate was evaporated in vacuo. The remaining residue was dissolved in ether, and filtered through a plug of silica gel using ether as eluent. The solvents were evaporated in vacuo to afford the title compound (20 g, 99% yield) as a yellow solid. 1H NMR (DMSO-d6) δ ppm: 7.64 (s, 1H), 7.38 (dd, J=8.65, 5.59 Hz, 2H), 7.08 (t, J=8.65 Hz, 2H), 4.27 (q, J=7.12 Hz, 2H), 2.10 (d, J=1.36 Hz, 3H), 1.27-1.38 (m, 3H). MS (DCI+) 209 (M+H).

reactant | 4-Fluorobenzaldehyde | 97 mmol, 12 g | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | (Carboethoxyethylidene)triphenylphosphorane | 116 mmol, 42 g | C(=O)(OCC)CC=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H23O2P
solvent | toluene | 500 mL | C1(=CC=CC=C1)C | C7H8
product | (E)-ethyl 3-(4-fluorophenyl)-2-methylacrylate | 20 g, 99% yield | FC1=CC=C(C=C1)/C=C(/C(=O)OCC)\C | C12H13FO2
